US03994974
In 20 ml. of ethanol there was dissolved 1.4 g. of 4-benzyloxy-3-formylamino-α-(N-benzyl-N-isopropylaminomethyl)-benzyl alcohol and after adding to the solution 0.2 g. of 10% palladium carbon, the catalytic reduction was carried out at normal temperature and pressure. After 165 ml. of hydrogen was absorbed, the reaction was stopped. The catalyst was filtered off, the solvent was distilled off under reduced pressure, and then the residue thus formed was dissolved in a small amount of ethanol. Thereafter, when a small amount of ether was added to the solution and the solution was allowed to stand, a crystalline material was formed. By recovering the crystalline material by filtration, 0.7 g. of 3-formylamino-4-hydroxy-α-(isopropylaminomethyl)benzyl alcohol was obtained.

reactant | 4-benzyloxy-3-formylamino-α-(N-benzyl-N-isopropylaminomethyl)-benzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=C(C(CN(C(C)C)CC2=CC=CC=C2)O)C=C1)NC=O | C26H30N2O3
reactant | ether | CCOCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | [C].[Pd]
product | 3-formylamino-4-hydroxy-α-(isopropylaminomethyl)benzyl alcohol | C(=O)NC=1C=C(C(CNC(C)C)O)C=CC1O | C12H18N2O3
